US05096890
Preparation of 3-(R,S)-(1-carbamoyl-1,1-diphenylmethyl)-1-(3,4-methylenedioxybenzyl)pyrrolidine
A mixture containing 3-(R,S)-(1-carbamoyl-1,1-diphenylmethyl)pyrrolidine (0.75 g--see Preparation 8), 3,4-methylenedioxybenzyl chloride (0.51 g--commercially available), anhydrous potassium carbonate (0.75 g) and acetonitrile (30 ml) was stirred at room temperature for 30 minutes. The mixture was partitioned between 10% aqueous potassium carbonate (20 ml) and dichloromethane (50 ml), the layers were separated and the aqueous layer extracted with dichloromethane (3×50 ml). The combined dichloromethane extracts were dried (MgSO4) and concentrated in vacuo to give a foam which was purified by column chromatography on silica eluting with dichloromethane containing methanol (0% up to 10%). The product-containing fractions were combined and concentrated in vacuo to give the title compound as a foam, yield 0.5 g.

reactant | 3-(R,S)-(1-carbamoyl-1,1-diphenylmethyl)pyrrolidine | 0.75 g | C(N)(=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1CNCC1 | C18H20N2O
reactant | 3,4-methylenedioxybenzyl chloride | C1OC=2C=C(CCl)C=CC2O1 | C8H7ClO2
reactant | potassium carbonate | 0.75 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 3-(R,S)-(1-carbamoyl-1,1-diphenylmethyl)-1-(3,4-methylenedioxybenzyl)pyrrolidine | C(N)(=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1CN(CC1)CC1=CC2=C(C=C1)OCO2 | C26H26N2O3
